US07612114B2
1-(4-Benzyloxybenzyl)-6-bromo-1H-pyridin-2-one
By referring to the synthetic method of Synthesis, 1974, 707, to a solution of 2,6-dibromopyridine (5.0 g) in tert-butanol (100 ml) was added potassium tert-butoxide (25 g), the solution was stirred overnight at 100° C., then ice was added to the reaction mixture, which was brought to pH 1 with 5N hydrochloric acid, then the solution was stirred overnight at room temperature. The solution was extracted with chloroform, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo to provide 6-bromo-1H-pyridin-2-one (2.5 g). By referring to the synthetic method of Tetrahedron Lett., 1995, 36, 8917, to a solution of 6-bromo-1H-pyridin-2-one (1.9 g) in 1,2-dimethoxyethane (27 ml) and N,N-dimethylformamide (3 ml) was added 60% sodium hydride (470 mg) on an ice bath under a nitrogen atmosphere, the solution was stirred for 15 minutes, then lithium bromide (3.85 g) was added thereto followed by stirring for 25 minutes at room temperature, 4-benzyloxybenzyl chloride (5.4 g) was added thereto followed by stirring overnight at 70° C. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (2.3 g).

reactant | 6-bromo-1H-pyridin-2-one | 1.9 g | BrC1=CC=CC(N1)=O | C5H4BrNO
reactant | sodium hydride | 470 mg | [H-].[Na+]
reactant | lithium bromide | 3.85 g | [Br-].[Li+]
reactant | 4-benzyloxybenzyl chloride | 5.4 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
solvent | 1,2-dimethoxyethane | 27 ml | COCCOC | C4H10O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 1-(4-Benzyloxybenzyl)-6-bromo-1H-pyridin-2-one | 2.3 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(C=CC=C2Br)=O)C=C1 | C19H16BrNO2
